US09255089B2
A mixture of N-(4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitrophenyl)-2,2,2-trifluoroacetamide (2.2 g, 4.83 mmol), cesium carbonate (3.94 g, 12.08 mmol) and N,N-Dimethylformamide (100 ml) was stirred at room temperature under argon. To the mixture was added iodoethane (3.77 g, 24.17 mmol) and reaction was heated to 45° C. overnight. Crude mixture was diluted in EtOAc and water and extracted 3 times with EtOAc. Organics were washed with water, aq LiCl, then brine, dried over sodium sulfate and evaporated to dryness under reduced pressure to afford crude N-(4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitrophenyl)-N-ethyl-2,2,2-trifluoroacetamide as a dark oil.

reactant | N-(4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitrophenyl)-2,2,2-trifluoroacetamide | 4.83 mmol, 2.2 g | CC1=NOC(=C1C1=CC(=C(C(=C1)[N+](=O)[O-])NC(C(F)(F)F)=O)I)C | C13H9F3IN3O4
reactant | cesium carbonate | 12.08 mmol, 3.94 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-Dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | iodoethane | 24.17 mmol, 3.77 g | ICC | C2H5I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitrophenyl)-N-ethyl-2,2,2-trifluoroacetamide | CC1=NOC(=C1C1=CC(=C(C(=C1)[N+](=O)[O-])N(C(C(F)(F)F)=O)CC)I)C | C15H13F3IN3O4
